US06051712
In an analogous manner to that described under (a), by reacting tert-butyl (3RS,4RS)-4-(4-hydroxymethyl-phenyl)-3-(naphthalen-2-ylmethoxy)-piperidine-1-carboxylate with (benzothiazol-2-yl) disulphide there was obtained tert-butyl (3RS,4RS)-4-[4-(benzothiazol-2-ylsulphanylmethyl)-phenyl]-3-naphthalen-2-ylmethoxy-piperidine-1-carboxylate as a yellowish foam; MS: 597 (M+H)+.

reactant | tert-butyl (3RS,4RS)-4-(4-hydroxymethyl-phenyl)-3-(naphthalen-2-ylmethoxy)-piperidine-1-carboxylate | OCC1=CC=C(C=C1)C1C(CN(CC1)C(=O)OC(C)(C)C)OCC1=CC2=CC=CC=C2C=C1 | C28H33NO4
reactant | (benzothiazol-2-yl) disulphide | S1C(=NC2=C1C=CC=C2)SSC=2SC1=C(N2)C=CC=C1 | C14H8N2S4
product | tert-butyl (3RS,4RS)-4-[4-(benzothiazol-2-ylsulphanylmethyl)-phenyl]-3-naphthalen-2-ylmethoxy-piperidine-1-carboxylate | S1C(=NC2=C1C=CC=C2)SCC2=CC=C(C=C2)C2C(CN(CC2)C(=O)OC(C)(C)C)OCC2=CC1=CC=CC=C1C=C2 | C35H36N2O3S2
